US05066660
(i) N-Phenylmethyl-1H-indole-5-carboxamide
Indole-5-carboxylic acid (3.0 g) in anhydrous terahydrofuran (THF) (25 ml) was treated with 1,1-carbonyldiimidazole (CDI) (3.35 g) with stirring at room temperature for 1 h. A further amount (1.0 g) of CDI was added and, after stirring for a further 1H, benzylamine (4.0 g) was introduced. Stirring was continued for 24 h. The solution was diluted with water (50 ml), saturated with sodium chloride, and the THF layer separated off. The organic solution was washed with 1N hydrochloride acid (3×50 ml), brine (2×50 ml), dried (MgSO4) and evaporated under reduced pressure to given an oil (6.0 g) which was chromatographed on silica (Merck 7734, 200 g) eluting with methylene chloride and then methylene chloride/methanol (50:1) to give a foam (4.0 g). Crystallization from ethyl acetate/petroleum/ether (b.p. 60°-80°) gave the title compound as a solid (2.05 g) m.p. 155°-160°.

reactant | Indole-5-carboxylic acid | 3.0 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | benzylamine | 4.0 g | C(C1=CC=CC=C1)N | C7H9N
solvent | terahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | sodium chloride | [Cl-].[Na+]
product | N-Phenylmethyl-1H-indole-5-carboxamide | 4.0 g | C1(=CC=CC=C1)CNC(=O)C=1C=C2C=CNC2=CC1 | C16H14N2O
